US08541462B2
(R)-3-{(S)-2-[2-(2-Fluoro-phenyl)-acetylamino]-3-methyl-pentanoylamino}-8-trifluoromethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ((S)-1-methoxycarbamoyl-2-methyl-butyl)-amide
0.500 g (0.91 mmol) of (R/S)-3-{(S)-2-[2-(2-Fluoro-phenyl)-acetylamino]-3-methyl-pentanoylamino}-8-trifluoromethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid (synthesized in according to WO 2006/005484), 0.521 g (1.37 mmol) of HATU and 2.0 mL (11.76 mmol) of DIPEA were dissolved in DMF and stirred for 30 min at room temperature. 0.220 g (1.37 mmol) of (S)-2-Amino-3-methyl-pentanoic acid methoxy-amide were added and the reaction mixture and heated at 110° C. for 3 h. The solvent was removed under vacuum and the residue was purified by high performance liquid chromatography.

reactant | (R/S)-3-{(S)-2-[2-(2-Fluoro-phenyl)-acetylamino]-3-methyl-pentanoylamino}-8-trifluoromethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 0.91 mmol, 0.500 g | FC1=C(C=CC=C1)CC(=O)N[C@H](C(=O)NC1(CCC=2NC3=C(C=CC=C3C2C1)C(F)(F)F)C(=O)O)C(CC)C | C28H29F4N3O4
reactant | HATU | 1.37 mmol, 0.521 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 11.76 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-Amino-3-methyl-pentanoic acid methoxy-amide | 1.37 mmol, 0.220 g | CONC([C@H](C(CC)C)N)=O | C7H16N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-3-{(S)-2-[2-(2-Fluoro-phenyl)-acetylamino]-3-methyl-pentanoylamino}-8-trifluoromethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ((S)-1-methoxycarbamoyl-2-methyl-butyl)-amide | CONC(=O)[C@H](C(CC)C)NC(=O)[C@]1(CCC=2NC3=C(C=CC=C3C2C1)C(F)(F)F)NC([C@H](C(CC)C)NC(CC1=C(C=CC=C1)F)=O)=O | C35H43F4N5O5
